US08377978B2
A suspension of (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid benzyl ester (10.0 g, 21.5 mmol) and 5% Pd on carbon (0.914 g) in EtOAc (200 mL) was treated with H2 (balloon) and stirred at 10-15° C. for 1.5 hour and at room temperature for 0.5 hour. The resulted precipitate was dissolved in methanol and filtered through celite pad. The filtrate was concentrated under reduced pressure and the obtained residue was re-crystallized from EtOAc to give (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid (5.6 g). The mother liquor was concentrated under reduced pressure and purified by silica gel column chromatography to give additional amount of (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid (1.4 g). 1H NMR (400 MHz, DMSO-d6) δ 1.13 (t, 3H, J=7.1 Hz), 1.15 (d, 3H, J=6.8 Hz), 2.85 (dd, 1H, J=7.1, 14.1 Hz), 2.93 (dd, 1H, J=6.3, 13.6 Hz), 3.30-3.37 (m, 1H), 3.48 (dd, 1H, J=6.5, 6.5 Hz), 4.03 (q, 2H, J=7.1 Hz), 7.32 (d, 2H, J=8.3 Hz), 7.38-7.43 (m, 1H), 7.48 (dd, 1H, J=7.8, 7.8 Hz), 7.59-7.65 (m, 3H), 7.70 (dd, 1H, J=2.0, 2.0 Hz); MS: m/z (MH+) 376.

reactant | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid benzyl ester | 21.5 mmol, 10.0 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N[C@@H](C)C(=O)OCC)=O | C27H28ClNO4
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | methanol | CO | CH4O
catalyst | Pd on carbon | 0.914 g | [Pd] | Pd
product | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid | 5.6 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)N[C@@H](C)C(=O)OCC | C20H22ClNO4
